US06451839B1
Part E. Preparation of [[2-ethyl-1-(2-phenyl-phenylmethyl)-1H-indol-4-yl]oxy]acetic acid tert-butyl ester
2-Ethyl-4-hydroxy-1-(2-phenyl-phenylmethyl)-1H-indole (0.8 g, 0.00245 mol) was added to a slurry of cesium carbonate (0.98 g, 0.003 mol) in 15 mL of dimethylformamide, stirred at room temperature for ten minutes and then the t-butyl bromoacetate was added all at once. After stirring at room temperature overnight, the solution was poured into water and extracted in ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated to an oil that crystallized on standing at room temperature. This material was slurried in hexane and filtered to give 0.93 g of subtitled compound as a tan solid.

reactant | 2-Ethyl-4-hydroxy-1-(2-phenyl-phenylmethyl)-1H-indole | 0.00245 mol, 0.8 g | C(C)C=1N(C2=CC=CC(=C2C1)O)CC1=C(C=CC=C1)C1=CC=CC=C1 | C23H21NO
reactant | cesium carbonate | 0.003 mol, 0.98 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | t-butyl bromoacetate | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | [[2-ethyl-1-(2-phenyl-phenylmethyl)-1H-indol-4-yl]oxy]acetic acid tert-butyl ester | 0.93 g | C(C)(C)(C)OC(COC1=C2C=C(N(C2=CC=C1)CC1=C(C=CC=C1)C1=CC=CC=C1)CC)=O | C29H31NO3
